US03940395
Employing the above procedure, 7.0 g. of 4,6-dichloro-2-phenylpyrimidine is reacted with 34 ml. of N,N-diethylethylenediamine, followed by the reaction of the crude product thereof with 12.5 g. of p-chlorothiophenol. Recrystallization of the crude product (3.85 g.) from n-heptane affords 4-(4-chlorophenylthio)-6-[2-(diethylamino)ethylamino]-2-phenylpyrimidine, m.p. 83.5°-86°C.

reactant | 4,6-dichloro-2-phenylpyrimidine | ClC1=NC(=NC(=C1)Cl)C1=CC=CC=C1 | C10H6Cl2N2
reactant | N,N-diethylethylenediamine | C(C)N(CCN)CC | C6H16N2
reactant | p-chlorothiophenol | ClC1=CC=C(C=C1)S | C6H5ClS
product | 4-(4-chlorophenylthio)-6-[2-(diethylamino)ethylamino]-2-phenylpyrimidine | ClC1=CC=C(C=C1)SC1=NC(=NC(=C1)NCCN(CC)CC)C1=CC=CC=C1 | C22H25ClN4S
